US08314138B2
Synthesis of 2-{1-[2-(4-fluoro-benzenesulfonylamino)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 2-[1-(2-amino-ethyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide) and 4-fluoro-benzenesulfonyl chloride as describe in Example 81 and isolated as a white solid (0.052 g, 37% yield). 1H NMR (400 MHz, CDCl3) δ 8.62 (s, 1H), 8.56 (d, J=4 Hz, 1H), 7.83-7.87 (m, 2H), 7.73 (d, J=8 Hz, 1H), 7.42 (d, J=2 Hz, 1H), 7.27-7.33 (m, 1H), 7.16 (t, J=8 Hz, 2H), 6.79 (d, J=2 Hz, 1H), 6.09-6.14 (bm, 1H), 5.36 (bs, 1H), 4.64 (d, J=8 Hz, 2H), 4.25-4.29 (m, 2H), 3.47 (bs, 2H), 2.74 (s, 3H); MS (M+H)+=500.8; Rt=1.08 min; HRMS (M+H)+=501.12.

reactant | 2-[1-(2-amino-ethyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCN)C | C16H18N6OS
reactant | 4-fluoro-benzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 2-{1-[2-(4-fluoro-benzenesulfonylamino)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)F)C | C22H21FN6O3S2
